US07834051B2
rac-2-chloro-4-[(2S,3S)-2-(4-fluorobenzyl)-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile
To a mixture of 2-chloro-4-[2-(4-fluorobenzyl)-3-hydroxy-5-oxo-2,5-dihydro-1H-pyrrol-1-yl]benzonitrile (1.00 g) and acetic acid (1.84 mL) in acetonitrile (10 mL) was added sodium borohydride (276 mg) at 0° C. in small portions. The mixture was warmed to room temperature and stirred for 1 hr. Water and saturated brine were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (eluent: hexane:ethyl acetate=4:1→ethyl acetate), and recrystallized from tetrahydrofuran-hexane to give the title compound as colorless crystals (yield: 717 mg, 71%).

reactant | 2-chloro-4-[2-(4-fluorobenzyl)-3-hydroxy-5-oxo-2,5-dihydro-1H-pyrrol-1-yl]benzonitrile | 1.00 g | ClC1=C(C#N)C=CC(=C1)N1C(C(=CC1=O)O)CC1=CC=C(C=C1)F | C18H12ClFN2O2
reactant | acetic acid | 1.84 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 276 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | rac-2-chloro-4-[(2S,3S)-2-(4-fluorobenzyl)-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile | yield: 717 mg, 71% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H](CC1=O)O)CC1=CC=C(C=C1)F | C18H14ClFN2O2
